US07557213B2
Preparation of 3-(3,4-Dimethyl-benzoyl)-1-pyridin-2-ylmethyl-6-trifluoromethyl-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 55 mg (0.16 mmol) of 3-(3,4-dimethyl-benzoyl)-6-trifluoromethyl-1H-quinolin-4-one, 18 mg of 60% sodium hydride, 52 mg of 2-bromomethylpyridine hydrobromide and 1 mL of N,N-dimethylformamide. Yield: 49 mg of a white solid: LC-MSD, m/z for C25H19F2N2O2 [M+H]+=437.5; HPLC retention time: 2.6 min.

reactant | 3-(3,4-dimethyl-benzoyl)-6-trifluoromethyl-1H-quinolin-4-one | 0.16 mmol, 55 mg | CC=1C=C(C(=O)C2=CNC3=CC=C(C=C3C2=O)C(F)(F)F)C=CC1C | C19H14F3NO2
reactant | sodium hydride | 18 mg | [H-].[Na+]
reactant | 2-bromomethylpyridine hydrobromide | 52 mg | Br.BrCC1=NC=CC=C1
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dimethyl-benzoyl)-1-pyridin-2-ylmethyl-6-trifluoromethyl-1H-quinolin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=C(C=C3C2=O)C(F)(F)F)CC2=NC=CC=C2)C=CC1C | C25H19F3N2O2
